US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 4 using (S)-4-amino-6-methylthiochromane-7-carboxylic acid methyl ester (1.20 g) and benzyloxycarbonyl chloride (0.87 ml), the objective (S)-4-(benzyloxycarbonylamino)-6-methylthiochromane-7-carboxylic acid methyl ester (1.74 g) was obtained as colorless crystals.

reactant | (S)-4-amino-6-methylthiochromane-7-carboxylic acid methyl ester | 1.20 g | COC(=O)C1=C(C=C2[C@H](CCSC2=C1)N)C | C12H15NO2S
reactant | benzyloxycarbonyl chloride | 0.87 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
product | (S)-4-(benzyloxycarbonylamino)-6-methylthiochromane-7-carboxylic acid methyl ester | 1.74 g | COC(=O)C1=C(C=C2[C@H](CCSC2=C1)NC(=O)OCC1=CC=CC=C1)C | C20H21NO4S
